US05994378
A mixture of 5-{1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(carboxymethoxy)indol-3-yl}-1H-tetrazole (60 mg) and 1,1'-carbonyldiimidazole (60 mg) in dichloromethane (2 ml) was stirred at room temperature for 5 hours. And then, dimethylamine hydrochloride (16.5 mg) and triethylamine (0.5 ml) were added to the mixture successively. After being stirred for 18 hours, the mixture was concentrated under reduced pressure. The resulting residue was acidified with diluted hydrochloric acid and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel and eluted with a mixture of chloroform, ethyl acetate and methanol. The fractions containing the objective compound were combined and concentrated under reduced pressure to give 5-{1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(N,N-dimethylcarbamoylmethoxy)indol-3-yl}-1H-tetrazole (30.1 mg).

reactant | 5-{1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(carboxymethoxy)indol-3-yl}-1H-tetrazole | 60 mg | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C=C(C1=CC(=CC=C21)OCC(=O)O)C2=NN=NN2 | C27H24N6O4S
reactant | 1,1'-carbonyldiimidazole | 60 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine hydrochloride | 16.5 mg | Cl.CNC
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 5-{1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(N,N-dimethylcarbamoylmethoxy)indol-3-yl}-1H-tetrazole | 30.1 mg | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C=C(C1=CC(=CC=C21)OCC(N(C)C)=O)C2=NN=NN2 | C29H29N7O3S
